US04940710
A 1.0 g portion of 3-(1-methyl-1H-pyrazol-3-yl)piperazine and 508 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid were dissolved in 5 ml of pyridine and heated at 85°-95° C. for 18 hours, in a pressure bottle which had been evacuated and filled with argon. Methanol was added and the solid collected, giving 610 mg of 1-ethyl-6-fluoro-1,4-dihydro-7-[3-(1-methyl-1H-pyrazol-3-yl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid.

reactant | 3-(1-methyl-1H-pyrazol-3-yl)piperazine | CN1N=C(C=C1)C1CNCCN1 | C8H14N4
reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 508 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[3-(1-methyl-1H-pyrazol-3-yl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 610 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=NN(C=C1)C)F)=O)C(=O)O | C20H22FN5O3
